US06329370B1
[4-(3,5-Dichloro-pyridin-4-ylmethyl)-7-methoxy-1-oxo-1H-phthalazin-2-yl]-acetic acid (Compound 50)
A suspension of [4-(3,5-dichloro-pyridin-4-ylmethyl)-7-methoxy-1-oxo-1H-phthalazin-2-yl]-acetic acid ethyl ester (0.65 g, 1.54 mmoles), prepared as described in example 44, in ethanol (30 ml) was added with concentrated NaOH (3 ml). The mixture was stirred overnight at room temperature, then dried, taken up in water and washed twice with CH2Cl2. The aqueous phase was acidified with concentrated HCl. The precipitate was filtered and dried over P2O5 at 60° C., then crystallised from CH3OH (25 ml) and the filtrate was dried at 45° C. to give 0.36 g of the title compound (yield: 60%). m.p.: 221.4-222.4° C.

reactant | [4-(3,5-dichloro-pyridin-4-ylmethyl)-7-methoxy-1-oxo-1H-phthalazin-2-yl]-acetic acid ethyl ester | 1.54 mmoles, 0.65 g | C(C)OC(CN1C(C2=CC(=CC=C2C(=N1)CC1=C(C=NC=C1Cl)Cl)OC)=O)=O | C19H17Cl2N3O4
reactant | NaOH | 3 ml | [OH-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | [4-(3,5-Dichloro-pyridin-4-ylmethyl)-7-methoxy-1-oxo-1H-phthalazin-2-yl]-acetic acid | 0.36 g, yield: 60% | ClC=1C=NC=C(C1CC1=NN(C(C2=CC(=CC=C12)OC)=O)CC(=O)O)Cl | C17H13Cl2N3O4
